US08222416B2
To a stirred solution of 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclobutyl-1-(4-methylsulfanyl-phenyl)-ethanol (500 mg, 1 mmol) in methanol (50 mL) and water (10 mL) was added sodium metaperiodate (440 mg, 2 mmol) at room temperature. The resulting mixture was stirred at room temperature for 8 h, extracted with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate. The solvent was evaporated in vacuo to give 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclobutyl-1-(4-methylsulfinyl-phenyl)-ethanol (512 mg, quant.) as a light yellow solid: LC/MS m/e calcd for C26H25FN2O4S2 [M+H]+ 513.63, observed 512.8.

reactant | 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclobutyl-1-(4-methylsulfanyl-phenyl)-ethanol | 1 mmol, 500 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(CC2CCC2)(O)C2=CC=C(C=C2)SC | C26H25FN2O3S2
reactant | sodium metaperiodate | 2 mmol, 440 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclobutyl-1-(4-methylsulfinyl-phenyl)-ethanol | 512 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(CC2CCC2)(O)C2=CC=C(C=C2)S(=O)C | C26H25FN2O4S2
